US05821364
A solution of potassium clavulanate in ice cold water was stirred with ethyl acetate under cooling with ice-water. With a solution of about 10% (w/w) sulphuric acid the pH was brought at about 2, the water layer separated and twice extracted with ethyl acetate. The collected extracts were dried with magnesium sulphate, filtered and washed with ethyl acetate, yielding a solution of clavulanic acid of about 2% (w/w). The clavulanic acid was diluted with an equal volume of acetone and diamine was added.

reactant | potassium clavulanate | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-].[K+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | clavulanic acid | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)O | C8H9NO5
